US07495103B2
To a solution of 2,4-dimethoxyquinoline (11.5 g, 60.8 mmol) in anhydrous THF was added dropwise n-BuLi (2.5 M in hexane, 48.6 mL, 122 mmol) at 0° C. After stirring for 1.5 h at 0° C., the mixture was added to a solution of ethyl chloroformate in anhydrous THF and stirred at 0° C. for additional 30 min and then at room temperature overnight. The reaction mixture was poured into water and extracted with CH2Cl2. The organic layer was dried over Na2SO4 and concentrated under vacuum. The resulting residue was purified by column chromatography (petroleum ether/EtOAc=50/1) to give ethyl 2,4-dimethoxyquinoline-3 -carboxylate (9.6 g, 60%).

reactant | 2,4-dimethoxyquinoline | 60.8 mmol, 11.5 g | COC1=NC2=CC=CC=C2C(=C1)OC | C11H11NO2
reactant | n-BuLi | 122 mmol, 2.5 M, 48.6 mL | [Li]CCCC
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | ethyl 2,4-dimethoxyquinoline-3 -carboxylate | 9.6 g, 60% | COC1=NC2=CC=CC=C2C(=C1C(=O)OCC)OC | C14H15NO4
